US08039460B2
Step A: (6S,9R)-3-(1-Azido-1-methylethyl)-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine
Methanesulfonic acid (0.30 mL, 4.63 mmol) was added to a solution of tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(1-methoxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate (50 mg, 0.115 mmol) and sodium azide (170 mg, 2.62 mmol) in chloroform (10 mL). After 1 h, additional methanesulfonic acid (0.95 mL, 14.65 mmol) was added. After 16 h, the reaction mixture was concentrated. Purification by reverse phase HPLC (100% water→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (38 mg). MS 347.1 (M+1).

reactant | Methanesulfonic acid | 4.63 mmol, 0.30 mL | CS(=O)(=O)O | CH4O3S
reactant | tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(1-methoxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | 0.115 mmol, 50 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)(C)OC)NC(OC(C)(C)C)=O | C23H31F2N3O3
reactant | sodium azide | 2.62 mmol, 170 mg | [N-]=[N+]=[N-].[Na+]
reactant | methanesulfonic acid | 14.65 mmol, 0.95 mL | CS(=O)(=O)O | CH4O3S
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | (6S,9R)-3-(1-Azido-1-methylethyl)-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 38 mg | N(=[N+]=[N-])C(C)(C)C1=CN=C2N1C[C@@H](CC[C@H]2N)C2=C(C(=CC=C2)F)F | C17H20F2N6
